US07211601B2
(2S,4EZ)-1-(diphenylacetyl)-4-(ethoxyimino)-N-(2-thienylmethyl)-2-pyrrolidinecarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(ethoxyimino)-2-pyrrolidinecarboxylic acid, diphenylacetyl chloride, and 2-thienylmethylamine the title compound was obtained in 74% purity by LC/MS. MS(ESI+): m/z=462.4.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(ethoxyimino)-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=NOCC)C(=O)O | C12H20N2O5
reactant | diphenylacetyl chloride | C1(=CC=CC=C1)C(C(=O)Cl)C1=CC=CC=C1 | C14H11ClO
reactant | 2-thienylmethylamine | S1C(=CC=C1)CN | C5H7NS
product | (2S,4EZ)-1-(diphenylacetyl)-4-(ethoxyimino)-N-(2-thienylmethyl)-2-pyrrolidinecarboxamide | C1(=CC=CC=C1)C(C(=O)N1[C@@H](CC(C1)=NOCC)C(=O)NCC=1SC=CC1)C1=CC=CC=C1 | C26H27N3O3S
